US09238667B2
Synthesis of allyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate
Under a nitrogen stream, into a 500 mL four-mouthed flask were added 1,1,1,3,3,3-hexamethyldisilasane (25.83 g) [mw. 161.39, 160 mmol, 1.8 eq.] and tetrahydrofuran (78 mL), and the mixture was dissolved. After cooling to −70° C., 1.6 mol/L normal butyllithium/normal hexane solution (100 mL) [160 mmol, 1.8 eq.] was added within the range of −70-−60° C. After stirring at the same temperature for 30 min, a solution (20 mL) of allyl 2-oxopyrrolidine-1-carboxylate (15.04 g) [mw. 169.18, 90 mmol] in tetrahydrofuran was added within the range of −78 to −70° C. After stirring at the same temperature for 50 min, a solution (20 mL) of methoxyacetic acid chloride (9.64 g) [mw. 108.52, 90 mmol] in tetrahydrofuran was added within the range of −78 to −62° C. After stirring at the same temperature for 30 min, 6 mol/L aqueous hydrochloric acid solution (50 mL) [300 mmol] was added at not more than −30° C. to quench the reaction. After warming to 25° C., water (25 mL) and toluene (100 mL) were added to allow for partitioning. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a yellow oil. Toluene (28 mL), aniline (4.20 g) [mw. 93.13, 45 mmol], p-toluenesulfonic acid monohydrate (170.0 mg) [mw. 190.22, 0.9 mmol] and cyclohexane (84 mL) were added thereto. Dean-Stark trap was set, and the mixture was subjected to dehydration reflux for 1.5 hr. After cooling to 25° C., 10 w/w % aqueous citric acid solution (56 mL) and toluene (28 mL) were added to allow for partitioning. Furthermore, the organic layer was washed with 5 w/w % aqueous sodium bicarbonate solution (56 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The concentrate was purified by basic silica gel. (silica gel amount: 100 g, eluent:toluene) The effective fraction was concentrated under reduced pressure, and normal hexane (56 mL) and ethyl acetate (21 mL) were added to allow for crystallization. The crystals were aged, filtered under reduced pressure, washed with a mixed solvent of normal hexane/ethyl acetate=8/3 (33 mL), and dried under reduced pressure at 50° C. Yellow crystals, 4.85 g, yield 17.2%, 1H-NMR (500 MHz, CDCl3, TMS) δ2.72-2.90 (m, 2H), 3.35 (s, 3H), 3.73-3.88 (m, 2H), 4.04 (s, 2H), 4.76 (d, J=5.7 Hz, 2H), 5.21-5.50 (m, 2H), 5.88-6.10 (m, 1H), 7.04-7.16 (m, 3H), 7.28-7.39 (m, 2H), 10.44-10.66 (s, 1H). 13C-NMR (125 MHz, CDCl3, CDCl3) 520.99, 43.61, 58.49, 66.71, 68.04, 98.71, 118.66, 122.77, 124.41, 129.21, 131.95, 139.29, 150.57, 152.27, 169.92.

reactant | normal butyllithium normal hexane | 160 mmol, 1.6 mol/L, 100 mL, 1.8 eq. | C(CCC)[Li].CCCCCC
reactant | allyl 2-oxopyrrolidine-1-carboxylate | 90 mmol, 20 mL, 15.04 g | O=C1N(CCC1)C(=O)OCC=C | C8H11NO3
reactant | methoxyacetic acid chloride | 90 mmol, 20 mL, 9.64 g | COCC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | 300 mmol, 6 mol/L, 50 mL | Cl | ClH
reactant | aniline | 45 mmol, 4.20 g | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid monohydrate | 0.9 mmol, 170.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | citric acid | 56 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 78 mL | O1CCCC1 | C4H8O
solvent | toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | 84 mL | C1CCCCC1 | C6H12
solvent | Toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 mL | O | H2O
product | allyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate | yield 17.2% | COCC(NC1=CC=CC=C1)=C1C(N(CC1)C(=O)OCC=C)=O | C17H20N2O4
